US08304557B2
3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-4-methylphenyl]benzamide
3-(1-Cyano-1-methylethyl)benzoyl chloride synthesized above in N,N-dimethylacetamide (2.0 mL) was added N-[6-(5-amino-2-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (75 mg, 0.233 mmol), and the mixture was stirred at room temperature for 10 hr. The reaction mixture was diluted with ethyl acetate (100 mL), washed with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=50/50→0/100), and the obtained oil was triturated with ethyl acetate and diisopropyl ether to give the title compound (40.8 mg, 35%) as a colorless powder.

reactant | 3-(1-Cyano-1-methylethyl)benzoyl chloride | C(#N)C(C)(C)C=1C=C(C(=O)Cl)C=CC1 | C11H10ClNO
reactant | N-[6-(5-amino-2-methylphenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.233 mmol, 75 mg | NC=1C=CC(=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C1)C | C17H17N5O2
solvent | N,N-dimethylacetamide | 2.0 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-4-methylphenyl]benzamide | 40.8 mg, 35% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C28H26N6O3
